US09422267B2
To a solution of thiazol-2-amine (1.08 g, 10.8 mmol) in THF (12 mL) was added isopropyl magnesium chloride (5.4 mL, 10.8 mmol) dropwise at 0° C. The reaction mixture was stirred at the same temperature for 20 min., followed by dropwise addition of solution of methyl (2S)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxylate (1 g, 2.702 mmol) in THF (5 mL). The reaction mixture was stirred at RT for 2 h. The progress of reaction was monitored by LCMS. The reaction mixture was quenched with a saturated solution of ammonium chloride (200 mL) and extracted with EtOAc (2×200 mL). The organic layer was washed with water (2×200 mL) followed by brine (200 mL) and dried over anhydrous sodium sulfate and concentrated under vacuum to obtain a crude product, which was recrystallized in diethyl ether (50 mL) to afford (2S)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]-N-thiazol-2-yl-pyrrolidine-2-carboxamide (600 mg). 1H NMR (400 MHz, CDCl3) δ (ppm): 1.30 (d, 6H), 2.00-2.22 (m, 5H), 2.50-2.70 (m, 3H), 2.80-3.05 (m, 3H), 3.61-3.80 (m, 2H), 4.85 (d, 1H), 6.28 (brs, 1H), 6.93 (d, 1H), 6.99 (brs, 1H), 7.40 (d, 1H). The other enantiomer is prepared using chiral (R) starting material.

reactant | thiazol-2-amine | 10.8 mmol, 1.08 g | S1C(=NC=C1)N | C3H4N2S
reactant | isopropyl magnesium chloride | 10.8 mmol, 5.4 mL | C(C)(C)[Mg]Cl
reactant | methyl (2S)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxylate | 2.702 mmol, 1 g | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@@H](CCC1)C(=O)OC)CCC2 | C19H26N6O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]-N-thiazol-2-yl-pyrrolidine-2-carboxamide | 600 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@@H](CCC1)C(=O)NC=1SC=CN1)CCC2 | C21H26N8OS
